US05064833
2-chloro-4-(2-methylphenylamino)quinazoline (5 g, 0.0185 mol) and pyrrolidine (6.59 g, 0.093 mol) were dissolved in ethanol (65 ml) placed in a sealed vessel and heated to 135° for 5 hours. After cooling, the reaction mixture was dissolved in ethanol and then evaporated in vacuo. The oily residue afforded crystals of 2-pyrrolidino-4-(2-methylphenylamino)quinazoline (3.67 g, 65%) from ethanol/water, m.p. 152°-154°.

reactant | 2-chloro-4-(2-methylphenylamino)quinazoline | 0.0185 mol, 5 g | ClC1=NC2=CC=CC=C2C(=N1)NC1=C(C=CC=C1)C | C15H12ClN3
reactant | pyrrolidine | 0.093 mol, 6.59 g | N1CCCC1 | C4H9N
solvent | ethanol | 65 ml | C(C)O | C2H6O
product | 2-pyrrolidino-4-(2-methylphenylamino)quinazoline | 3.67 g, 65% | N1(CCCC1)C1=NC2=CC=CC=C2C(=N1)NC1=C(C=CC=C1)C | C19H20N4
